US06927219B2
A: 2-Methyl-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzoic acid
5-Amino-2-chloro-benzoic acid methyl ester (3.5 g, 21.2 mmol) was dissolved in glacial acetic acid (80 ml) and 5.5 ml of concentrated HCl was added. After stirring with an overhead stirrer for 30 minutes at ambient temperature the mixture was cooled to 10° C. and a solution of NaNO2 (1.6 g) in water (4 ml) was added dropwise, keeping the internal temperature below 15° C. During this addition the reaction mixture changed from amber to a cloudy orange. After 30 minutes sodium acetate (3.8 g, 46.6 mmol) and (3-ethoxycarbonylamino-3-oxo-propionyl)-carbamic acid ethyl ester (5.7 g, 23.3 mmol) were added at once. After 10 minutes the reaction was warmed to ambient temperature. After 1 hour additional sodium acetate (1.7 g, 21.2 mmol) was added and the reaction mixture was heated at reflux. After 3 hours the deep red-brown mixture was treated with 50% sulfuric acid (23 ml) and heated again at reflux. After 2 hours the mixture was concentrated under reduced pressure and then water (200 ml) was added. After stirring for 30 minutes the gold precipitate (3.5 g) was collected by filtration. The resulting solid was suspended in 3 ml of mercaptoacetic acid and stirred at 175° C. After 4 hours the mixture was allowed to cool and sit for 16 hours. The mixture was diluted with water (100 ml) and stirred for 1 hour. The resulting brown solid (2.1 g) was collected by filtration. Mass spectrum [M-1] 246.4.

reactant | 5-Amino-2-chloro-benzoic acid methyl ester | 21.2 mmol, 3.5 g | COC(C1=C(C=CC(=C1)N)Cl)=O | C8H8ClNO2
reactant | HCl | 5.5 ml | Cl | ClH
reactant | NaNO2 | 1.6 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 46.6 mmol, 3.8 g | C(C)(=O)[O-].[Na+]
reactant | (3-ethoxycarbonylamino-3-oxo-propionyl)-carbamic acid ethyl ester | 23.3 mmol, 5.7 g | C(C)OC(NC(CC(=O)NC(=O)OCC)=O)=O | C9H14N2O6
reactant | sodium acetate | 21.2 mmol, 1.7 g | C(C)(=O)[O-].[Na+]
reactant | sulfuric acid | 23 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | water | 4 ml | O | H2O
product | 2-Methyl-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzoic acid | CC1=C(C(=O)O)C=C(C=C1)N1N=CC(NC1=O)=O | C11H9N3O4
